US06049004
Isolation of crystalline D-glucaro-1,4:6,3-dilactone--The syrup was transferred with a few mL of water to a large 1 L round-bottom flask and then concentrated under reduced pressure to a tacky solid. The flask was placed in a vacuum desiccator set at <0.1 torr and 50° C. for 5 hours. As a result of this treatment, the solid swelled into a white foam filling the flask. The flask was removed from the desiccator and the foam was broken up within the flask and stirred to a powder using a spatula. The powder in the flask was returned to the vacuum desiccator where it remained for 36 hours at <0.1 torr and approximately 45° C. A sample of the resultant beige colored powder was subjected to 1H NMR analysis. The analysis indicated that virtually all of the glucaric acid present had been converted to D-glucaro-1,4:6,3-dilactone. 40 mL of dioxane was added to the flask and the powder dissolved with vigorous shaking. When this solution was transferred to a smaller 250 mL round-bottom flask, D-glucaro-1,4:6,3-dilactone crystals (which is a direct crystalline form of glucaric acid) began to form spontaneously. The 250 mL flask was placed in a desiccator and crystallization was allowed to continue overnight. The crystal mass was stirred to a slurry, and the mother liquor was removed by suction in a Buchner funnel. The crystals were washed once with approximately 15 mL of a cold 3:1 (v/v) mixture of dioxane:CH2Cl2 and placed in a desiccator for 24 hours at 45° C. The weight of the crystals was 5.83 g which is 24.1% of the theoretical yield from glucose.

reactant | D-glucaro-1,4:6,3-dilactone | C1([C@H](O)[C@@H]2[C@@H]([C@H](O)C(=O)O2)O1)=O | C6H6O6
solvent | water | O | H2O
product | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
